US07737166B2
2-Cyclopropyl-6-(3,5-difluorophenyl)-7-fluoro-5-methyl-1,3-benzoxazole-4-carbonitrile (I-176)
6-Bromo-2-cyclopropyl-7-fluoro-5-methyl-1,3-benzoxazole-4-carbonitrile (I-77) (200 mg, 0.68 mmol), 3,5-difluorophenylboronic acid (428 mg, 2.71 mmol) and tripotassium phosphate (288 mg, 1.36 mmol) were dissolved in 1,4-dioxane (8 ml), then at room temperature, tetrakis(triphenylphosphine)palladium(0) (157 mg, 0.14 mmol) was added. The solution was stirred under nitrogen atmosphere at 95° C. for 60 hours. After cooling to room temperature, aqueous saturated ammonium chloride solution was added to the reaction liquid, followed by stirring at room temperature for 5 minutes. This was extracted twice with ethyl acetate. The organic layers were combined, washed with saturated brine, and dried over anhydrous sodium sulfate. The insoluble matter was separated by filtration, the solvent was evaporated away, and the resulting residue was purified by middle-pressure liquid chromatography (eluent, hexane:ethyl acetate=8:1) to obtain the entitled compound (240.5 mg containing impurities (reference)) as a white solid. Since the impurities were difficult to separate, they are separated in the next step.

reactant | 6-Bromo-2-cyclopropyl-7-fluoro-5-methyl-1,3-benzoxazole-4-carbonitrile | 0.68 mmol, 200 mg | BrC=1C(=C2C(N=C(O2)C2CC2)=C(C1C)C#N)F | C12H8BrFN2O
reactant | 3,5-difluorophenylboronic acid | 2.71 mmol, 428 mg | FC=1C=C(C=C(C1)F)B(O)O | C6H5BF2O2
reactant | tripotassium phosphate | 1.36 mmol, 288 mg | P(=O)([O-])([O-])[O-].[K+].[K+].[K+]
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | 1,4-dioxane | 8 ml | O1CCOCC1 | C4H8O2
catalyst | tetrakis(triphenylphosphine)palladium(0) | 0.14 mmol, 157 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 2-Cyclopropyl-6-(3,5-difluorophenyl)-7-fluoro-5-methyl-1,3-benzoxazole-4-carbonitrile | C1(CC1)C=1OC=2C(N1)=C(C(=C(C2F)C2=CC(=CC(=C2)F)F)C)C#N | C18H11F3N2O
